US07067517B2
2,2-Dimethyl-N-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-yl]-succinamic acid
A solution of methyl-phenyl-carbamic acid 5-amino-pyridin-2-yl ester (0.49 g, 2.00 mmol) and 2,2-dimethylsuccinic anhydride (0.26 g, 2.00 mmol) in dichloromethane (10 mL) was stirred at room temperature overnight. Evaporation of the solvent in vacuo yielded the title compound. HPLC-MS (Method A): m/z=372 (M+H)+; Rt=2.84 min.

reactant | methyl-phenyl-carbamic acid 5-amino-pyridin-2-yl ester | 2.00 mmol, 0.49 g | NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C13H13N3O2
reactant | 2,2-dimethylsuccinic anhydride | 2.00 mmol, 0.26 g | CC1(C(=O)OC(C1)=O)C | C6H8O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,2-Dimethyl-N-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-yl]-succinamic acid | CC(C(=O)O)(CC(=O)NC=1C=NC(=CC1)OC(N(C1=CC=CC=C1)C)=O)C | C19H21N3O5
